US09283555B2
4-tert-butyl-N1-(2-tert-butylphenyl)benzamidine (Amidine VII)
Procedure as described for Amidine I using the following amounts: 7.80 mL of 2-t-butylaniline (50.0 mmol); 25.0 mL of 2.0 M butyllithium (50.0 mmol), 8.50 ml of 4-t-butylbenzonitrile (50.0 mmol). After refluxing overnight, the solution was dark brown. Addition of water yielded an orange solution with suspended solid. Solution was filtered and taken to dryness. The residue was treated with 75 mL of pentane, stirred for 30 minutes, and filtered yielding 13.43 g (87%) of light orange solid. 1H NMR (400 MHz, CDCl3): 7.87 (d, 2H), 7.49 (d, 2H), 7.41 (d, 1H), 7.17 (t, 1H), 7.00 (t, 1H), 6.81 (d, 1 H), 4.75 (s, 2H), 1.41 (s, 9H), 1.36 (s, 9H).

reactant | 2-t-butylaniline | 50.0 mmol, 7.80 mL | C(C)(C)(C)C1=C(N)C=CC=C1 | C10H15N
reactant | butyllithium | 50.0 mmol, 2.0 M, 25.0 mL | C(CCC)[Li]
reactant | 4-t-butylbenzonitrile | 50.0 mmol, 8.50 ml | C(C)(C)(C)C1=CC=C(C#N)C=C1 | C11H13N
solvent | water | O | H2O
product | 4-tert-butyl-N1-(2-tert-butylphenyl)benzamidine | C(C)(C)(C)C1=CC=C(C(=N)NC2=C(C=CC=C2)C(C)(C)C)C=C1 | C21H28N2
